US07485732B2
Step 3: Methyl {1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate
A solution of 0.71 g (1.44 mmol) of methyl{1-[bis(4-chlorophenyl)methyl]-3-hydroxyazetidin-3-yl}(3,5-difluorophenyl)acetate, 0.295 g (1.73 mmol) of methanesulfonyl anhydride, and 0.400 mL pyridine in 5 mL of dichloromethane was stirred at room temperature overnight. To this was added 0.400 mL of diazabicycloundecane and the solution remained stirring at room temperature. The mixture was partitioned between ether and water and the aqueous layer was washed with 20 mL of ether. The organic layers were washed with brine, combined, dried over MgSO4 and concentrated. The residue was filtered through a pad of silica gel using 20% ether-hexane to afford the title compound; 1NMR(CDCl3) δ 3.67 (s, 3H), 3.84 (m, 2H), 4.25 (m, 2H), 4.54 (s, 1H), 6.76 (m, 1H), 6.78 (m, 2H), 7.33 (m, 4H), 7.38 (m, 4H); Mass Spectrum: m/e=474 (M+1 35Cl, 35Cl) and 476 (M+1 35Cl, 37Cl).

reactant | methyl{1-[bis(4-chlorophenyl)methyl]-3-hydroxyazetidin-3-yl}(3,5-difluorophenyl)acetate | 1.44 mmol, 0.71 g | COC(C(C1=CC(=CC(=C1)F)F)C1(CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)O)=O | C25H21Cl2F2NO3
reactant | pyridine | 0.400 mL | N1=CC=CC=C1 | C5H5N
reactant | diazabicycloundecane | 0.400 mL | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Methyl {1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate | ClC1=CC=C(C=C1)C(N1CC(C1)=C(C(=O)OC)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H19Cl2F2NO2
